US07265120B2
To a solution of 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile (343 mg) in EtOH (10 ml) was dropwise added a solution of sodium molybdate dihydrate (12.1 mg) in a mixture of 30% hydrogen peroxide solution in water (0.57 ml) and EtOH (1.5 ml) and the mixture was stirred at 40-45° C. for 3 hours. After ice-cooling, a precipitate was collected by filtration to give 3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinecarboxamide as a solid (171 mg).

reactant | 5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2,3-pyrazinedicarbonitrile | 343 mg | C(C)(C)N1N=C(C=CC1=O)C=1N=C(C(=NC1C1=CC=CC=C1)C#N)C#N | C19H14N6O
reactant | EtOH | 10 ml | CCO | C2H6O
reactant | EtOH | 1.5 ml | CCO | C2H6O
solvent | hydrogen peroxide | OO | H2O2
solvent | water | 0.57 ml | O | H2O
catalyst | sodium molybdate dihydrate | 12.1 mg | O.O.[O-][Mo](=O)(=O)[O-].[Na+].[Na+]
product | 3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-6-phenyl-2-pyrazinecarboxamide | 171 mg | C(#N)C=1C(=NC(=C(N1)C1=NN(C(C=C1)=O)C(C)C)C1=CC=CC=C1)C(=O)N | C19H16N6O2
